US07947685B2
Step 1: 3-(Pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid methyl ester
The title compound, MS: m/e=232.1 (M+H+), was prepared in accordance with the general method of example 4, step 2 from 3-aminopyrazine-2-carboxylic acid methyl ester and 5-bromopyrimidine.

reactant | 3-aminopyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
product | 3-(Pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1NC=1C=NC=NC1 | C10H9N5O2
